US04956363
19.4 g (0.05 mole) of 2-morpholino-4-[[2-[(phenoxycarbonyl)oxy]ethyl]amino]-6-propyl-1,3,5-triazine, dissolved in 100 ml of anhydrous dichloromethane are introduced into one liter of liquid ammonia. Stirring is continued for 7 hours at a temperature of between -35° C. and -45° C. The ammonia is then evaporated and the organic phase is washed successively with an aqueous solution of sodium bicarbonate and with water. It is dried over sodium sulfate and the solvent is evaporated under reduced pressure. The residue obtained crystallizes in a 50:50 mixture (v/v) of ethyl acetate-hexane. 15.1 g of 2-[[2-[(aminocarbonyl)oxy]ethyl]amino]-4-morpholino-6-propyl-1,3,5-triazine are obtained.

reactant | 2-morpholino-4-[[2-[(phenoxycarbonyl)oxy]ethyl]amino]-6-propyl-1,3,5-triazine | 0.05 mole, 19.4 g | O1CCN(CC1)C1=NC(=NC(=N1)NCCOC(=O)OC1=CC=CC=C1)CCC | C19H25N5O4
reactant | ammonia | N | H3N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-[[2-[(aminocarbonyl)oxy]ethyl]amino]-4-morpholino-6-propyl-1,3,5-triazine | 15.1 g, Yield: 97.4% | NC(=O)OCCNC1=NC(=NC(=N1)N1CCOCC1)CCC | C13H22N6O3
